US07683185B2
2-Methylpent-2-enoic acid methyl ester (16b).
A mixture of 2-methylpent-2-enoic acid (5.0 g, 44 mmol) and sulfuric acid (0.5 mL) in methanol (250 mL) was heated at reflux for 16 hours. The solution was allowed to cool down to 20° C. and concentrated under reduced pressure. The residue was dissolved in ethyl acetate (100 mL) and washed with saturated aqueous sodium hydrogen carbonate (2×50 mL), distilled water (50 mL), then with brine (50 mL). The organic layer was dried over anhydrous MgSO4, filtered and concentrated under reduced pressure to give the title compound (5.1 g, 91%) as a colourless oil.

reactant | 2-methylpent-2-enoic acid | 44 mmol, 5.0 g | CC(C(=O)O)=CCC | C6H10O2
reactant | sulfuric acid | 0.5 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 250 mL | CO | CH4O
product | 2-Methylpent-2-enoic acid methyl ester | 5.1 g, 91% | COC(C(=CCC)C)=O | C7H12O2
